US05861417
3-(1H-Tetrazol-1-yl)benzoic acid
Combine ethyl 3-(1H-tetrazol-1-yl)benzoate (4.93 g, 22.6 mmol) and tetrahydrofuran/water (100 mL/25 mL). Add lithium hydroxide (1.9 g, 45.2 mmol) and heat to reflux. After 2 hours, cool to ambient temperature and extract the reaction mixture five times with a 1M aqueous sodium hydroxide solution. Combine the aqueous layers and extract with ethyl acetate. Acidify the aqueous layers with a 1M aqueous hydrochloric acid solution (pH about 1) to give a solid. Collect the solid by filtration to give the title compound.

reactant | ethyl 3-(1H-tetrazol-1-yl)benzoate | 22.6 mmol, 4.93 g | N1(N=NN=C1)C=1C=C(C(=O)OCC)C=CC1 | C10H10N4O2
reactant | lithium hydroxide | 45.2 mmol, 1.9 g | [OH-].[Li+]
solvent | tetrahydrofuran water | 100 mL | O1CCCC1.O
product | 3-(1H-Tetrazol-1-yl)benzoic acid | N1(N=NN=C1)C=1C=C(C(=O)O)C=CC1 | C8H6N4O2
